US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-cyanopyridin-2-yl)phenyl)guanidine (200 mg) in dichloromethane (2 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4N, 4 ml), and the mixture was stirred at room temperature for 18 hours. The solvent was evaporated under reduced pressure. To the residue was added 5% ethanol in ethyl acetate (20 ml), and the precipitate was collected by filtration and dried under reduced pressure to give 3-(3-cyanopyridin-2-yl)phenylguanidine dihydrochloride (90 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-cyanopyridin-2-yl)phenyl)guanidine | 200 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC=C1C#N)NC(=O)OC(C)(C)C | C23H27N5O4
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4N, 4 ml | O1CCOCC1 | C4H8O2
product | 3-(3-cyanopyridin-2-yl)phenylguanidine dihydrochloride | 90 mg | Cl.Cl.C(#N)C=1C(=NC=CC1)C=1C=C(C=CC1)NC(=N)N | InChI=1S/C13H11N5.2ClH/c14-8-10-4-2-6-17-12(10)9-3-1-5-11(7-9)18-13(15)16;;/h1-7H,(H4,15,16,18);2*1H
